US06831193B2
3-(2-cyclohexen-1-yloxy)benzaldehyde
3-Bromo-1-cyclohexene and 3-hydroxybenzaldehyde were processed as described in Example 58A to provide the title compound.

reactant | 3-Bromo-1-cyclohexene | BrC1C=CCCC1 | C6H9Br
reactant | 3-hydroxybenzaldehyde | OC=1C=C(C=O)C=CC1 | C7H6O2
product | 3-(2-cyclohexen-1-yloxy)benzaldehyde | C1(C=CCCC1)OC=1C=C(C=O)C=CC1 | C13H14O2
